* 74LVC1G.lib
*
* 74LVC1Gxxx Picogate Model library for LTspice
*
* Tony Casey, tony@ritecom.com
*
* Revision 1 - 201900801
*
* This model library is heavily based on the 74HC_V series CMOS libraries written by Helmut Sennewald
* and uses exactly the same general methodology, but with two important changes:
*
* (1) The power pins have been brought out as separate connections, and need not necessarily be
* connected to VCC and GND nodes.
*
* (2) The output stages are designed using voltage controlled switches and conduct real current
* from the supplies. Within the limits of what can be done with SW elements, they model the
* real CMOS output devices adequately well to provide the designer with a realistic way to model
* supply currents and output voltages under dynamic conditions. Although the library name
* doesn't carry the "_V" suffix, the logic output voltage tracks the supply voltage as a consequence.
*
* The library may be used in conjunction with the corresponding symbol library contained in 74LVC1G.zip
*
* As with Helmut's libraries, all parts have been constructed in three sections.
*
* >--| ESD/LEVEL SHIFT |----| 1V-LOGIC Axx |----| LEVEL SHIFT/ESD |-->
*
* Delays have been adjusted for Vcc = 1V8/2V7/3V3/5V (LVC) using the test conditions stated in the
* Nexperia data sheets, and generally achieve Tpd errors less than 10%. The actual VCC voltage needs
* to be passed to each device as a parameter, either a fixed value, or a variable by placing:
*
* - VCC={VCC} Speed=1 Tripdt=100p
*
* in the Value field of the symbol, where {VCC} denotes that it is defined somewhere in the schematic.
*
* Temperature effects are currently not modelled.
*
* https://www.nexperia.com/products/analog-logic-ics/family/LVC/#/p=1,s=0,f=,c=,rpp=,fs=0,sc=,so=,es=
*
*========================= NEXPERIA LVC PICOLOGIC DEVICES ======================
*
* 2-input NAND gate
* tpd 3n3,2n6,2n2,1n8
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G00 A B Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 600p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A2 0 Ai 0 Bi 0 Yi 0 0 AND TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
.ends 74LVC1G00
*-------------------------------------------------------------------------------
*
*
* 2-input NOR gate
* tpd 3n2,2n5,2n1,1n7
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G02 A B Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 550p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 0 Ai 0 Bi 0 Yi 0 0 OR TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
.ends 74LVC1G02
*-------------------------------------------------------------------------------
*
*
* Unbuffered inverter gate
* tpd 1n7,1n7,1n6n,1n3
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1GU04 A Y VCC VGND vcc1={vcc} speed1={speed}
*
XIN A Yi VCC VGND 74LVC_IN_UNBUF vcc2={vcc1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1GU04
*-------------------------------------------------------------------------------
*
*
* Inverter gate
* tpd 3n,2n6,2n,1n6
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G04 A Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 450p*(5/VCC1)**1.2*Speed1
*
XIN A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai 0 0 0 0 Yi 0 0 BUF TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G04
*-------------------------------------------------------------------------------
*
*
* 2-input AND gate
* tpd 3n4,2n5,2n1,1n7
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G08 A B Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 600p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
*
A1 Ai Bi 0 0 0 0 Yi 0 AND TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G08
*-------------------------------------------------------------------------------
*
*
* 3-input NAND gate
* tpd 4n7,3n,2n6,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G10 A B C Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 750p*(5/VCC1)**1.4*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN3 C Ci VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi Ci 0 0 Yi 0 0 AND TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G10
*-------------------------------------------------------------------------------
*
*
* 3-input AND gate
* tpd 4n7,3n,2n6,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G11 A B C Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 750p*(5/VCC1)**1.4*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN3 C Ci VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi Ci 0 0 0 Yi 0 AND TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G11
*-------------------------------------------------------------------------------
*
*
* Schmitt-inverter gate
* tpd 4n1,3n2,3n,2n2
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G14 A Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 800p*(5/VCC1)**1.1*Speed1
*
XIN A Ai VCC VGND 74LVC_IN_SCH vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai 0 0 0 0 Yi 0 0 BUF TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G14
*-------------------------------------------------------------------------------
*
*
* 3-input NOR gate
* tpd 4n7,3n,2n6,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G27 A B C Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 750p*(5/VCC1)**1.4*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN3 C Ci VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi Ci 0 0 Yi 0 0 OR TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G27
*-------------------------------------------------------------------------------
*
*
* 2-input OR gate
* tpd 3n2,2n5,2n1,1n7
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G32 A B Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 550p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
*
A1 Ai Bi 0 0 0 0 Yi 0 OR tripdt={tripdt1} td={td1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G32
*-------------------------------------------------------------------------------
*
*
* 2-input XOR gate
* tpd 3n7,2n8,2n3,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G86 A B Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 710p*(5/VCC1)**1.1*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi 0 0 0 0 Yi 0 XOR tripdt={tripdt1} td={td1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G86
*-------------------------------------------------------------------------------
*
*
* Tristate buffer with active low Enable
* tpd 3n3,2n6,2n2,1n8
* tr 2n,2n5,2n5,2n5
* Tpzen 4n1,3n3,2n4,2n1 (tpzl & tpzh) > check datasheet for definitions
* Tpzdis 4n3,3n,3n1,2n2 (tplz & tphz) > and measurement conditions
.SUBCKT 74LVC1G125 A _EN Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.model nSW SW(Ron=1 Roff=1Meg Vt=500m)
.model pSW SW(Ron=1Meg Roff=1 Vt=500m)
.param TD1 650p*(5/VCC1)**1*Speed1
.param TD2 800p*(5/VCC1)**0.9*Speed1
.param TD3 1000p*(5/VCC1)**0.9*Speed1
*
XIN1 A Ai VCC 0 74lvc_in 74LVC_IN VCC2={VCC1} TRIPDT2=tripdt1
XIN2 _EN _ENi VCC 0 74lvc_in 74LVC_IN VCC2={VCC1} TRIPDT2=tripdt1
*
A1 Ai 0 0 0 0 0 Yi 0 BUF TD={TD1} TRIPDT={Tripdt1}
A2 _ENi 0 0 0 0 ENin 0 0 BUF TD={TD2} TRIPDT={Tripdt1}
A3 _ENi 0 0 0 0 ENip 0 0 BUF TD={TD3} TRIPDT={Tripdt1}
S1 ENi ENin _ENi 0 nSW
S2 ENi ENip _ENi 0 pSW
*
XOUT Yi Y ENi VCC 0 74lvc_out_tri 74LVC_OUT_TRI VCC2={VCC1} SPEED2={Speed1}
*
.ends 74LVC1G125
*-------------------------------------------------------------------------------
*
*
*-------------------------------------------------------------------------------
*
*
* Tristate buffer with active high Enable
* tpd 3n,2n3,2n,1n7
* tr 2n,2n5,2n5,2n5
* Tpzen 3n2,2n4,2n1,1n6 > check datasheet for definitions
* Tpzdis 4n3,3n4,3n,2n2 > and measurement conditions
.SUBCKT 74LVC1G126 A EN Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.model nSW SW(Ron=1 Roff=1Meg Vt=-500m)
.model pSW SW(Ron=1Meg Roff=1 Vt=-500m)
.param TD1 550p*(5/VCC1)**1*Speed1
.param TD2 800p*(5/VCC1)**0.9*Speed1
.param TD3 475p*(5/VCC1)**1.3*Speed1
*
XIN1 A Ai VCC 0 74lvc_in 74LVC_IN VCC2={VCC1} TRIPDT2=tripdt1
XIN2 EN ENi VCC 0 74lvc_in 74LVC_IN VCC2={VCC1} TRIPDT2=tripdt1
*
A1 Ai 0 0 0 0 0 Yi 0 BUF TD={TD1} TRIPDT={Tripdt1}
A2 ENi 0 0 0 0 0 ENin 0 BUF TD={TD2} TRIPDT={Tripdt1}
A3 ENi 0 0 0 0 0 ENip 0 BUF TD={TD3} TRIPDT={Tripdt1}
S1 ENin ENid 0 ENi nSW
S2 ENip ENid 0 ENi pSW
*
XOUT Yi Y ENid VCC 0 74lvc_out_tri 74LVC_OUT_TRI VCC2={VCC1} SPEED2={Speed1}
*
.ends 74LVC1G126
*-------------------------------------------------------------------------------
*
*
* 3-input AND gate
* tpd 4n7,3n,2n6,1n9
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G332 A B C Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 750p*(5/VCC1)**1.4*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN3 C Ci VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 Ai Bi Ci 0 0 0 Yi 0 OR TRIPDT={Tripdt1} TD={TD1}
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G332
*-------------------------------------------------------------------------------
*
*
* 3-input XOR gate
* tpd 8n,5n,4n5,3n5
* tr 2n,2n5,2n5,2n5
.SUBCKT 74LVC1G386 A B C Y VCC VGND vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param TD1 2n3*(5/VCC1)*Speed1
*
XIN1 A Ai VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN2 B Bi VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
XIN3 C Ci VCC VGND 74LVC_IN vcc2={vcc1} tripdt2={tripdt1}
*
A1 0 Ai Bi Ci 0 0 Yi 0 XOR Td={TD1} Tripdt=tripdt1
*
XOUT Yi Y VCC VGND 74LVC_OUT vcc2={vcc1} speed2={speed1}
*
.ends 74LVC1G386
*-------------------------------------------------------------------------------
*
*
*============================ INPUT LEVEL TRANSLATORS ==========================
*
*
* Unbuffered input (no hysteresis) for 74LVC1GU04 only
.subckt 74lvc_in_unbuf IN OUT VCC VGND vcc3={vcc2}
.model Desd D(Vfwd=0.65 Ron=10)
*
* I/P ESD structure
D1 VGND IN Desd
R1 IN INR 100
D2 VGND INR Desd
* No ESD diode to VCC because I/P is 5V tolerant at VCC<5V
*
* Input parasitics
C1 INR VGND 1p5
C2 VCC INR 1p5
*
* VCC to 1V translator
E1 DRV 0 INR VGND table(0,1 {VCC3/2},500m {VCC3},0)
*
.ends 74lvc_in_unbuf
*-------------------------------------------------------------------------------
*
*
* Standard Picogate input has ~100mV of hysteresis
.subckt 74lvc_in IN OUT VCC VGND vcc3={vcc2} tripdt3={tripdt2}
.param Vh1 10m*(5/VCC3)
.model Desd D(Vfwd=0.65 Ron=10)
*
* I/P ESD structure
D1 VGND IN Desd
R1 IN INR 100
D2 VGND INR Desd
* No ESD diode to VCC because I/P is 5V tolerant at VCC<5V
*
* Input parasitics
C1 INR VGND 1p5
C2 VCC INR 1p5
*
* VCC to 1V translator
E1 DRV 0 INR VGND table(0,1 {VCC3/2},500m {VCC3},0)
*
* Output buffer with hysteresis
A1 DRV 0 0 0 0 OUT 0 0 SCHMITT Vt=0.5 Vh={Vh1} tripdt={tripdt3}
*
.ends 74lvc_in
*-------------------------------------------------------------------------------
*
*
* Schmitt input has VCC-dependent hysteresis
.SUBCKT 74LVC_IN_SCH in out VCC VGND vcc3={vcc2} tripdt3={tripdt2}
.model Desd D(Vfwd=0.65 Ron=10)
.param Vt1 1-0.44*(5/VCC3)**0.1
.param Vh1 105m*(5+6)/(VCC3+6)
*
* I/P ESD structure
D1 VGND IN Desd
R1 IN INR 100
D2 VGND INR Desd
* No ESD diode to VCC because I/P is 5V tolerant at VCC<5V
*
* Input parasitics
C1 INR VGND 1p5
C2 VCC INR 1p5
*
* VCC to 1V translator
E1 DRV 0 INR VGND table(0,1 {VCC3/2},500m {VCC3},0)
*
* Output buffer with hysteresis
A1 DRV 0 0 0 0 OUT 0 0 SCHMITT Vh=Vh1 Vt=Vt1 Tripdt={Tripdt3}
.ends
*-------------------------------------------------------------------------------
*
*
*======================= OUTPUT LEVEL TRANSLATORS, DRIVERS =====================
*
*
* Standard output driver
* There is only one driver strength used in the Picogate series, rated at ±32mA/5V
.subckt 74lvc_out IN OUT VCC VGND vcc3={vcc2} speed3={speed2}
.model Desd D(Vfwd=0.65 Ron=10)
.model strSW SW(Ron={Ron} Roff=1G Vt={0.48*VCC3} Vh=-100m Ilimit={Ilimit} level=2)
.model wkSW SW(Ron={Ron*10} Roff=1G Vt=500m Vh=-210m Ilimit={Ilimit/10} level=2
.param Ilimit 215m*(VCC-1.1)/(5-1.1)
.param Ron 7.5*(5/VCC)**0.5
.param Cval 1p*Speed3
*
* 1V to VCC translator
E1 DRV VGND IN 0 table(0,{VCC3} 500m,{VCC3/2} 1,0})
*
* Speed control
R1 DRV DRVF 250
C3 DRVF VGND {Cval}
*
* Output driver
S1 VGND OUT DRVF VGND strSW
S2 OUT VCC VCC DRVF strSW
S3 VGND OUT DRVF VGND wkSW
S4 OUT VCC VCC DRVF wkSW
C1 VCC OUT 5p
C2 OUT VGND 5p
*
* ESD structure
D1 OUT VCC Desd
D2 VGND OUT Desd
*
.ends 74lvc_out
*-------------------------------------------------------------------------------
*
*
* Tristate output driver, otherwise broadly similar to standard driver
.subckt 74lvc_out_tri IN OUT EN VCC VGND vcc3={vcc2} speed3={speed2}
.model Desd D(Vfwd=0.65 Ron=10)
.model strSW SW(Ron={Ron} Roff=1G Vt={0.48*VCC3} Vh=-100m Ilimit={Ilimit} level=2)
.model wkSW SW(Ron={Ron*10} Roff=1G Vt=500m Vh=-210m Ilimit={Ilimit/10} level=2
.model triSW SW(Ron=10 Roff=1G Vt=500m Vh=-10m)
.param Ilimit 215m*(VCC3-1.1)/(5-1.1)
.param Ron 7.5*(5/VCC3)**0.5
.param Cval 1p*Speed3
*
* 1V to VCC translator
E1 DRV VGND IN 0 table(0,{VCC3} 500m,{VCC3/2} 1,0})
*
* 1V to 1V Buffer
E2 ENV VGND EN 0 1
*
* Speed control
R1 DRV DRVF 250
C3 DRVF VGND {Cval}
R4 ENV ENVF 250
C4 ENVF VGND {Cval}
*
* Tri-state control
S5 DRVFSP DRVF ENVF VGND triSW
S6 DRVFSN DRVF ENVF VGND triSW
R2 VCC DRVFSP 100k
R3 DRVFSN VGND 100k
C1 VCC OUT 5p
C2 OUT VGND 5p
*
* Output driver
S1 VGND OUT DRVFSN VGND strSW
S2 OUT VCC VCC DRVFSP strSW
S3 VGND OUT DRVFSN VGND wkSW
S4 OUT VCC VCC DRVFSP wkSW
*
* ESD structure
D1 OUT VCC Desd
D2 VGND OUT Desd
*
.ends 74lvc_out_tri
*-------------------------------------------------------------------------------
*
*
*====================== END NEXPERIA LVC PICOLOGIC DEVICES =====================
