* Created by Alexander Bordodynov on 8 December 2015
.subckt 1P3T_ 1 2 3 4 p Ron=1u Roff=1T
V 5 0 {set}
R 5 p 100k
c p 0 1p
R1 1 2 R=if((0.7<v(p)) & (v(p)<1.3),Ron,Roff)
R2 1 3 R=if((1.7<v(p)) & (v(p)<2.3),Ron,Roff)
R3 1 4 R=if((2.7<v(p)) & (v(p)<3.3),Ron,Roff)
.ends 1P3T_
