.subckt 2SK4027 D G S

J1 D G S NJF
D1 G S Ds

D2 S G Ds

R g s 13.7meg

.model NJF njf vto=-0.36 beta=1.93m KF=4e-18 

+ lambda=20m rs=10 rd=100 cgs=3p cgd=1.5p is=1e-18

.model Ds d is=75p n=1.8 cjo=0.1p rs=10 tt=100n

.ends

